US05859051
Step B: Preparation of 3-phenyl-6-hydroxy-7-propylbenzofuran
To a stirred suspension of 2-propyl-3-(2-phenyl-2-oxoethoxy)phenol (9.30 g) in o-phosphoric acid(85%) (93 mL) at room temperature was added over a 45 minutes period phosphorus pentoxide(46.50 g). During this period the reaction mixture was heated several times with a heat gun. After stirring the mixture for 30 minutes the reaction was checked by TLC(to take a little of sample with a capillary and dissolve sample in water and add several drops of ether; elution: 50% methylene chloride in hexane). The reaction mixture was heated again with heat gun if the reaction was not complete. The reaction mixture continued to be stirred for 20 minutes, then was poured into a beaker containing ice. The reaction flask was then rinsed with water and ether, and the washings were added to the beaker. The organic layer was separated, washed with water, dried over MgSO4, and concentrated. Column Chromatography (silica gel 60, 50% methylene chloride in hexane) gave the title compound.

reactant | 2-propyl-3-(2-phenyl-2-oxoethoxy)phenol | 9.30 g | C(CC)C1=C(C=CC=C1OCC(=O)C1=CC=CC=C1)O | C17H18O3
reactant | phosphorus pentoxide | 46.50 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | o-phosphoric acid | 93 mL | OP(=O)(O)O | H3O4P
solvent | water | O | H2O
catalyst | ether | several drops | CCOCC | C4H10O
product | 3-phenyl-6-hydroxy-7-propylbenzofuran | C1(=CC=CC=C1)C1=COC2=C1C=CC(=C2CCC)O | C17H16O2
